US08283353B2
4′-({4-[1-(4-hydroxyphenyl)piperidin-4-yl]-5-oxo-7-propyl-4,5-dihydro[1,2,4]triazolo[1,5-a]pyrimidin-6-yl}methyl)biphenyl-2-carbonitrile
A mixture of 4′-[(4-{1-[4-(benzyloxy)phenyl]piperidin-4-yl}-5-oxo-7-propyl-4,5-dihydro[1,2,4]triazolo[1,5-a]pyrimidin-6-yl)methyl]biphenyl-2-carbonitrile (364 mg), 10% palladium-carbon (containing water by 50%, 91 mg), tetrahydrofuran (10 mL) and methanol (10 mL) was stirred at room temperature for 16 hr under a hydrogen atmosphere. The reaction mixture was filtered, and the solvent was evaporated. The residue was purified by preparative HPLC [eluent: 0.1% trifluoroacetic acid-containing acetonitrile/0.1% trifluoroacetic acid-containing water=5/95→100/0 (volume ratio)] to give the title compound as a colorless amorphous compound (183 mg, 59%).

reactant | 4′-[(4-{1-[4-(benzyloxy)phenyl]piperidin-4-yl}-5-oxo-7-propyl-4,5-dihydro[1,2,4]triazolo[1,5-a]pyrimidin-6-yl)methyl]biphenyl-2-carbonitrile | 364 mg | C(C1=CC=CC=C1)OC1=CC=C(C=C1)N1CCC(CC1)N1C=2N(C(=C(C1=O)CC1=CC=C(C=C1)C=1C(=CC=CC1)C#N)CCC)N=CN2 | C40H38N6O2
reactant | tetrahydrofuran | 10 mL | O1CCCC1 | C4H8O
catalyst | palladium-carbon | 91 mg | [C].[Pd]
solvent | methanol | 10 mL | CO | CH4O
product | 4′-({4-[1-(4-hydroxyphenyl)piperidin-4-yl]-5-oxo-7-propyl-4,5-dihydro[1,2,4]triazolo[1,5-a]pyrimidin-6-yl}methyl)biphenyl-2-carbonitrile | OC1=CC=C(C=C1)N1CCC(CC1)N1C=2N(C(=C(C1=O)CC1=CC=C(C=C1)C=1C(=CC=CC1)C#N)CCC)N=CN2 | C33H32N6O2
